US06610696B2
E. 2-{4-[2-(2-Biphenyl-4-yl-5-Trifluoromethyloxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid
A sample of 2-{4-[2-(2-biphenyl-4-yl-5-trifluoromethyloxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid methyl ester (141 mg, 0.21 mmol) was dissolved in ethanol (2 mL) followed by addition of 5.0 N NaOH (0.6 mL). The mixture was warmed with magnetic stirring at 50° C. for one hour. The reaction mixture was then allowed to cool to room temperature then acidified with 1.0 N HCl (3 mL) then extracted with methylene chloride (50 mL). The organic phase was separated, dried over sodium chloride and concentrated under reduced pressure to yield 134 mg (98%, 24% overall) of a glassy solid. HPLC RT1=5.90 min; 1H NMR (400 MHz, CDCl3) δ8.08 (d, J=8.3 Hz, 2H), 7.67 (d, J=8.3 Hz, 2H), 7.60 (d, J=8.3 Hz, 2H), 7.45-7.36 (m, 3H), 6.86 (d, J=9.3 Hz, 2H), 6.78 (d, J=9.3 Hz, 2H), 4.24 (t, J=6.3 Hz, 2H), 3.15 (t, J=6.3 Hz, 2H), 1.48 (s, 6H); MS (EI) 511.95 (M+H)+.

reactant | 2-{4-[2-(2-biphenyl-4-yl-5-trifluoromethyloxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid methyl ester | 0.21 mmol, 141 mg | COC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C(F)(F)F)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H26F3NO5
reactant | NaOH | 5.0 N, 0.6 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 3 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-{4-[2-(2-Biphenyl-4-yl-5-Trifluoromethyloxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C(F)(F)F)C1=CC=CC=C1 | C28H24F3NO5
